US07943639B2
tert-Butyl 4-{2-[(3,5-dimethoxybenzyl)sulfonyl]thieno[3,2-c]pyridin-4-yl}piperazine-1-carboxylate
Lithium 4-chlorothieno[3,2-c]pyridine-2-sulfinate (0.44 mmol) was treated with 3,5-dimethoxybenzylbromide (0.59 mmol) as described in Method P above and then reacted further with tert-butyl-piperazine-1-carboxylate as described in Method Q. Yield 0.02 g (10% over two steps). Beige solid. 1H NMR (300 MHz, CDCl3) δ 8.14-8.18 (m, 1H), 7.55 (s, 1H), 6.40-6.45 (m, 1H), 6.26-6.34 (m, 2H), 4.39 (s, 2H), 3.54-3.72 (m, 14H), 1.50 (s, 9H); MS (ESI+) for C25H31N3O6S2 m/z 534 (M+H)+. HPLC 69%, RT 1.99 min (YMC ODS AQ, 33×3 mm, 10-90% acetonitrile in 3 min).

reactant | Lithium 4-chlorothieno[3,2-c]pyridine-2-sulfinate | 0.44 mmol | ClC1=NC=CC2=C1C=C(S2)S(=O)[O-].[Li+]
reactant | 3,5-dimethoxybenzylbromide | 0.59 mmol | COC=1C=C(CBr)C=C(C1)OC | C9H11BrO2
reactant | tert-butyl-piperazine-1-carboxylate | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
solvent | acetonitrile | C(C)#N | C2H3N
product | tert-Butyl 4-{2-[(3,5-dimethoxybenzyl)sulfonyl]thieno[3,2-c]pyridin-4-yl}piperazine-1-carboxylate | COC=1C=C(CS(=O)(=O)C2=CC=3C(=NC=CC3S2)N2CCN(CC2)C(=O)OC(C)(C)C)C=C(C1)OC | C25H31N3O6S2
